US08497278B2
6-chloro-1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidine-2,4(1H,3H)-dione (128)
The title compound was prepared according to Method B and the experimentals described for compound 92 from 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride and 6-chloropyrimidine-2,4(1H,3H)-dione. M/e+ 387 for C18H13Cl2N4O2 (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 9.35 (bs, 1H), 8.44 (d, J=6.23 Hz, 1H), 7.66 (d, J=9.1 Hz, 1H), 7.55 (d, J=8.4 Hz, 2H), 7.45 (d, J=8.4 Hz, 2H), 7.29 (m, 2H), 6.90 (t, J=6.9 Hz, 1H), 5.74 (d, J=8.0 Hz, 2H) ppm.

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl
reactant | 6-chloropyrimidine-2,4(1H,3H)-dione | ClC1=CC(NC(N1)=O)=O | C4H3ClN2O2
product | 6-chloro-1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidine-2,4(1H,3H)-dione | ClC1=CC(NC(N1CC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl)=O)=O | C18H12Cl2N4O2
